US05972951
3-(4-Bromo-3-methylphenyl)-5-methylisoxazole
A solution of 4-bromo-3-methylbenzaldehyde oxime (D81) (2.68 g, 0.0125 mol) in dry dimethylformamide (30 ml) was treated over 15 minutes with N-bromosuccinimide (636 mg, 0.00357 mol), and reaction mixture stirred for 2.5 hours, then cooled to -15° C. 2-Chloropropene (3.45 ml, 0.0405 mol) was added in a single portion, followed by dropwise addition of triethylamine (1.35 ml, 0.0097 mol) in dry dimethylformamide (10 ml) over 0.5 hours maintaining the temp. at -10° C. The mixture was stirred at 0° C. for 1 hour, then stirred at room temperature overnight. The solvent was evaporated under reduced pressure and the residue partitioned between K2CO3 solution and chloroform. The organic phase was dried (Na2SO4) and evaporated under reduced pressure and the residue purified by chromatography on silica gel eluting with 60-80 petroleum-ether and ethyl acetate, to afford the title compound (246 mg, 8%).

reactant | 4-bromo-3-methylbenzaldehyde oxime | 0.0125 mol, 2.68 g | BrC1=C(C=C(C=NO)C=C1)C | C8H8BrNO
reactant | N-bromosuccinimide | 0.00357 mol, 636 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-Chloropropene | 0.0405 mol, 3.45 ml | ClC(=C)C | C3H5Cl
reactant | triethylamine | 0.0097 mol, 1.35 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(4-Bromo-3-methylphenyl)-5-methylisoxazole | 246 mg, 8% | BrC1=C(C=C(C=C1)C1=NOC(=C1)C)C | C11H10BrNO
